US06680313B2
Sodium (1S,5R,6S)-2-[7-(3-acetimidoylaminopropyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate
The procedure of Example 12 was repeated, except that 29.1 mg of sodium (1S,5R,6S)-2-[7-(3-aminopropyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate and 40 mg of ethylacetimidate hydrochloride were used as the starting compounds. Thus, 8.8 mg of the title compound was prepared.

reactant | sodium (1S,5R,6S)-2-[7-(3-aminopropyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 29.1 mg | NCCCSC=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)[O-])C([C@@H]1[C@@H](C)O)=O)C.[Na+]
reactant | ethylacetimidate hydrochloride | 40 mg | Cl.C(C)OC(C)=N
product | Sodium (1S,5R,6S)-2-[7-(3-acetimidoylaminopropyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 8.8 mg | C(C)(=N)NCCCSC=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)[O-])C([C@@H]1[C@@H](C)O)=O)C.[Na+] | InChI=1S/C20H25N5O4S2.Na/c1-9-13(16(20(28)29)25-15(9)14(10(2)26)18(25)27)12-7-24-8-23-17(19(24)31-12)30-6-4-5-22-11(3)21;/h7-10,14-15,26H,4-6H2,1-3H3,(H2,21,22)(H,28,29);/q;+1/p-1/t9-,10+,14+,15+;/m0./s1
